US08071586B2
E) 4-((S)-3-Benzyloxy-1-methoxycarbonyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester
A solution of 4.40 g (8.64 mmol) of (S)-4-benzyloxy-2-{2-[benzyloxycarbonyl-(2-carboxy-ethyl)-amino]-ethylamino}-butyric acid methyl ester; hydrochloride in 85 ml dichloromethane was treated with 1.20 (8.64 mmol) of triethylamine and at 0° C. with 1.99 g (10.37 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride. The cooling bath was allowed to come to room temperature and after 15 h the reaction was extracted with 10% aq. potassium hydrogensulfate solution/diethyl ether (3×). The organic phases were washed with 10% aq. potassium hydrogensulfate solution, 10% sodium chloride solution and dried over Na2SO4 to yield after evaporation of the solvent 3.74 g (95%) of the title compound as a light yellow oil. MS: 455.2 (MH+).

reactant | (S)-4-benzyloxy-2-{2-[benzyloxycarbonyl-(2-carboxy-ethyl)-amino]-ethylamino}-butyric acid methyl ester | 8.64 mmol, 4.40 g | COC([C@H](CCOCC1=CC=CC=C1)NCCN(CCC(=O)O)C(=O)OCC1=CC=CC=C1)=O | C25H32N2O7
reactant | hydrochloride | Cl | ClH
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 10.37 mmol, 1.99 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 85 ml | ClCCl | CH2Cl2
product | 4-((S)-3-Benzyloxy-1-methoxycarbonyl-propyl)-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(C(CC1)=O)[C@@H](CCOCC1=CC=CC=C1)C(=O)OC | C25H30N2O6
